US06794397B2
N-(4-Ethoxy-2-nitrophenyl)-3-pyrrolecarboxamide
The title compound was prepared from pyrrole-3-carboxylic acid and 4-ethoxy-2-nitroaniline as a yellow solid as described in Example 15. 1H NMR (CDCl3): 10.82 (s, 1H), 8.88 (d, J=9.3, 1H), 8.65 (s, 1H), 7.70 (d, J=3.0, 1H), 7.54-7.52 (m, 1H), 7.28-7.24 (m, 1H), 6.87-6.85 (m, 1H), 6.71-6.69 (m, 1H), 4.08 (q, J=6.9, 2H), 1.45 (t, J=6.9, 3H).

reactant | pyrrole-3-carboxylic acid | N1C=C(C=C1)C(=O)O | C5H5NO2
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | N-(4-Ethoxy-2-nitrophenyl)-3-pyrrolecarboxamide | C(C)OC1=CC(=C(C=C1)NC(=O)C1=CNC=C1)[N+](=O)[O-] | C13H13N3O4
